US06518423B1
6.1 g of methyl 1-benzylpiperidine-4-carboximidate dihydrochloride was distributed into an aqueous solution of potassium carbonate and ethyl acetate under ice-cooling. The organic layer was extracted and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, 4.7 g of free methyl 1-benzylpiperidine-4-carboximidate was obtained as a colorless oily substance. A solution of 2.35 g of methyl 1-benzylpiperidine-4-carboximidate and 0.95 g (10 mmol) of methanesulfonamide in dry methanol was stirred at room temperature for 3 days. Subsequently, 1.0 g of palladium-carbon was added to the reaction mixture and the resulting mixture was stirred in a hydrogen atmosphere under atmospheric pressure for 1 hour. The inorganic matters were eliminated by filtering through celite. After distilling off the solvent under reduced pressure, the residue was recrystallized from methanol to thereby give 1.38 g of the title compound as colorless needles.

reactant | methyl 1-benzylpiperidine-4-carboximidate dihydrochloride | 6.1 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)C(OC)=N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-benzylpiperidine-4-carboximidate | 4.7 g | C(C1=CC=CC=C1)N1CCC(CC1)C(OC)=N | C14H20N2O
